US07291665B2
SDBS with 0% PGV Clay, Staged Acid
A latex was synthesized via the following method: To an empty reactor kettle was added 612.00 g DI water, 4.45 g anionic surfactant (23.0% aqueous solution), 7.55 g methacrylic acid, and 3.10 g sodium carbonate. A monomer emulsion was formed containing 426.60 g water, 19.90 g anionic surfactant (23.0% aqueous solution), 662.00 g Butyl Acrylate, 342.70 g Methyl Methacrylate, and 7.55 g methacrylic acid. The kettle contents were heated to 85° C. A 55.80 g quantity of the monomer emulsion was added to the kettle to form a polymer seed. Then, 4.03 g ammonium persulfate (dissolved in 28 g water) was added to initiate polymerization. The monomer emulsion was fed into the kettle such that a reactor temperature of 85° C. was maintained. After monomer feeds were completed, the batch was cooled to 65° C. Upon reaching 65° C., 5.58 g ferrous sulfate (0.15% aqueous) was added to the reactor. Then, a 1.12 g quantity of 70% tert-butyl hydroperoxide in 20 g of water was added along with a 0.56 g quantity of isoascorbic acid in 20.00 g water. The temperature was reduced to below 45° C. The pH of the batch was raised to 7.5 using ammonium hydroxide (28% aqueous) and a bactericide (4.77 g Kathon LX (1.4% aqueous) with 6.20 g water) was added. The sample was filtered through a 100 mesh screen to remove any large pieces of coagulated material.

reactant | methacrylic acid | 7.55 g | C(C(=C)C)(=O)O | C4H6O2
reactant | sodium carbonate | 3.10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Butyl Acrylate | 662.00 g | C(C=C)(=O)OCCCC | C7H12O2
reactant | Methyl Methacrylate | 342.70 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | methacrylic acid | 7.55 g | C(C(=C)C)(=O)O | C4H6O2
reactant | ammonium persulfate | 4.03 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | tert-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | isoascorbic acid | C([C@H]([C@@H]1C(=C(C(=O)O1)O)O)O)O | C6H8O6
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | Kathon LX | 4.77 g | CN1C(=O)C=CS1.CN1C(=O)C=C(S1)Cl
solvent | water | 20 g | O | H2O
solvent | water | 20.00 g | O | H2O
solvent | water | 6.20 g | O | H2O
solvent | water | 426.60 g | O | H2O
solvent | DI water | 612.00 g | O | H2O
product | SDBS | CCCCCCCCCCCCC1=CC=CC=C1S(=O)(=O)[O-].[Na+] | InChI=1S/C18H30O3S.Na/c1-2-3-4-5-6-7-8-9-10-11-14-17-15-12-13-16-18(17)22(19,20)21;/h12-13,15-16H,2-11,14H2,1H3,(H,19,20,21);/q;+1/p-1
